US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-acetyloxyphenyl)acetamide:
Acetic anhydride (2 ml) was added to a solution of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-d iisopropyl-3-hydroxyphenyl)acetamide (176 mg, 0.354 mmol) in pyridine (1 ml) and the mixture was stirred at room temperature for 90 minutes. The reaction solution was neutralized with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (20 g of silica gel; developing solvent, chloroform:methanol=30:1→20:1) and the resulting crude crystals were recrystallized from acetone-hexane to provide 140 mg (yield 73%) of the desired compound as colorless needles.

reactant | Acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-d iisopropyl-3-hydroxyphenyl)acetamide | 0.354 mmol, 176 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)O)C(C)C | C27H36N4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-acetyloxyphenyl)acetamide | 140 mg, yield 73% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)OC(C)=O)C(C)C | C29H38N4O4S
